US06306818B1
Carbonic acid benzyl ester phenethyl ester
To a mixture of 29.96 g phenethyl alcohol and 30 ml pyridine in 150 ml dichloromethane, 60.5 g benzylchloroformate was dropped in over 1 h 45 min while cooling in an ice-bath. After stirring over night at room temperature, the reaction was diluted with ether, washed with 2N HCl, NaHCO3, and water. After extraction with ether, the combined. organic layers were dried and evaporated to dryness. The residue was purified by silica gel chromatography to yield the product: 52.5 g of a colorless oil.

reactant | phenethyl alcohol | 29.96 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | benzylchloroformate | 60.5 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | Carbonic acid benzyl ester phenethyl ester | C(CC1=CC=CC=C1)OC(OCC1=CC=CC=C1)=O | C16H16O3
